* Z:\mnt\design.r\spice\examples\3571.asc
XU1 MP_01 N004 N008 N007 N002 MP_02 0 MP_03 N009 MP_04 N001 N003 N006 N006 N010 N011 LT3571
L1 N001 N002 10µ
R1 N007 N008 20
R2 N008 N010 1Meg
R3 N010 0 20.5K
R4 N011 0 10K
C1 N008 N010 10p
R5 N009 0 12.1K
V1 N001 0 5
C2 N011 0 10n
C3 N007 0 .1µ
D1 0 N004 APD
G1 N004 0 N005 0 1m
V2 N005 0 PULSE(.5 1.5 22m 10u 10u .5m 1m)
R6 N001 N003 100K
C4 N003 0 1µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 25m startup
.model APD D(Is=10n Cjo=10p)
.lib LT3571.sub
.backanno
.end
